US06489344B1
{4-[4-fluoro-2-(trifluoromethyl)phenyl]-5-imidazol-2-ylpyrimidin-2-yl}(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amine was prepared from 4-fluoro-2-(trifluoromethyl)benzoyl chloride and 2-chloro-5-(trifluoromethyl)pyridine using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-fluoro-2-(trifluoromethyl)benzoyl chloride | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
reactant | 2-chloro-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | {4-[4-fluoro-2-(trifluoromethyl)phenyl]-5-imidazol-2-ylpyrimidin-2-yl}(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amine | FC1=CC(=C(C=C1)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C22H16F7N7
